US04124704
To a solution of 2.2 g. (5.8 mmoles) of 2-iodo-3-phenyl-7-benzofuranacetic acid, 1 g. (5.8 mmoles) of cyclohexene and 175 ml. of chloroform is added 0.9 g. (10 mmoles) of dinitrogen tetroxide in 15 ml. of chloroform. The mixture is stirred for 20 hours, washed with water and made basic with sodium hydroxide. The chloroform layer is acidified with hydrochloric acid, washed with water twice and dried, then evaporated to provide 2-nitro-3-phenyl-7-benzofuranacetic acid, identical to the sample prepared in Example 2.

reactant | 2-iodo-3-phenyl-7-benzofuranacetic acid | 5.8 mmoles | IC1(OC=2C(C=CC2)=CC1C1=CC=CC=C1)CC(=O)O | C16H13IO3
reactant | cyclohexene | 5.8 mmoles | C1=CCCCC1 | C6H10
reactant | dinitrogen tetroxide | 10 mmoles | [N+](=O)([N+](=O)[O-])[O-] | N2O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-nitro-3-phenyl-7-benzofuranacetic acid | [N+](=O)([O-])C1(OC=2C(C=CC2)=CC1C1=CC=CC=C1)CC(=O)O | C16H13NO5
